US05340810
DMF - dimethylformamide;
TEA - triethylamine; HMPA - hexamethylphosphoramide; THF - tetrahydrofuran; MSC - methanesulphonyl chloride; BTPC - bis(triphenylphosphine)palladium (II) chloride; DMA - dimethylamine; IMS - industrial methylated spirits; SPC - Short path chromatography carried out on silica (Merck 7747) unless otherwise stated. FCC - Flash column chromatography carried out on silica (Merck 9385). `Dried` refers to drying using sodium sulphate or magnesium sulphate unless otherwise stated.

reactant | HMPA hexamethylphosphoramide | CN(C)P(=O)(N(C)C)N(C)C.CN(P(=O)(N(C)C)N(C)C)C | 2C6H18N3OP
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | DMA dimethylamine | CC(=O)N(C)C.CNC
catalyst | bis(triphenylphosphine)palladium (II) chloride | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | THF tetrahydrofuran | C1CCOC1.O1CCCC1 | 2C4H8O
product | DMF dimethylformamide | CN(C)C=O.CN(C=O)C | 2C3H7NO
